US06900227B2
Preparation of 2,2-bis-(3-chloro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester
This compound was prepared from bis-(3-chloro-phenyl)-dichloromethane and ethyl 3,4-dihydroxybenzoate according to Example 269d; yellow viscous oil, MS: m/e=415 ([M+H]+).

reactant | bis-(3-chloro-phenyl)-dichloromethane | ClC=1C=C(C=CC1)C(Cl)(Cl)C1=CC(=CC=C1)Cl | C13H8Cl4
reactant | ethyl 3,4-dihydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
product | 2,2-bis-(3-chloro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(OC(O2)(C2=CC(=CC=C2)Cl)C2=CC(=CC=C2)Cl)C=C1 | C22H16Cl2O4
